US20010046570A1
A mixture of 4,4′-dinitro-2-biphenylamine (10.0 g), allyl bromide (20 mL), potassium carbonate (16 g) and NMP (100 mL) was heated to 90-95° C. for 90 hr. The mixture was extracted with tetrahydrofuran (THF)-ethyl acetate-water and purified by crystallization from ethyl acetate to give N,N-diallyl-4,4′-dinitro-2-biphenylamine (7.0 g).

reactant | 4,4′-dinitro-2-biphenylamine | 10.0 g | [N+](=O)([O-])C=1C=C(C(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])N | C12H9N3O4
reactant | allyl bromide | 20 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | NMP | 100 mL | CN1CCCC1=O | C5H9NO
product | N,N-diallyl-4,4′-dinitro-2-biphenylamine | 7.0 g | C(C=C)N(C=1C(=CC=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-])CC=C | C18H17N3O4
